datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"[H:20][N+:21]1(CCNCC1)CCO.[CH-:10]1C2=C(C=CC=C2)OC1=O>>[H:20][CH:10]1C2=C(C=CC=C2)OC1=O.C1C[N:21](CCN1)CCO 10=20;20,21=21",
"CC(C)(CN)[S-:10].Nc1c2ccccc2[nH+]c2cccc([O:21][H:20])c12>>CC(C)(CN)[S:10][H:20].Nc1c2ccccc2[nH+]c2cccc([O-:21])c12 10=20;20,21=21",
"Nc1ccc(S(=O)(=O)[N:21](c2cccnn2)[H:20])cc1.c1ccc2cc3cc([O-:10])ccc3cc2c1>>Nc1ccc(S(=O)(=O)[N-:21]c2cccnn2)cc1.c1ccc2cc3cc([O:10][H:20])ccc3cc2c1 10=20;20,21=21",
"C#CCCCCCC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>C#CCCCCCC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"OC[C@@H]1O[C@H](C[N:10]2CCOCC2)[C@@H](O)[C@H](O)[C@@H]1O.Oc1ccc2c3ccccc3c[n+:21]([H:20])c2c1>>OC[C@@H]1O[C@H](C[N+:10]2([H:20])CCOCC2)[C@@H](O)[C@H](O)[C@@H]1O.Oc1ccc2c3ccccc3c[n:21]c2c1 10=20;20,21=21",
"CN1C=CC(=[S:10])C=C1.Cc1cnc2c(c1)c(C)cc1c(C)cc[n+:21]([H:20])c12>>CN1C=CC(=[S+:10][H:20])C=C1.Cc1cnc2c(c1)c(C)cc1c(C)cc[n:21]c12 10=20;20,21=21",
"C[NH+](C)CCCNC(=O)/C=N/[O-:10].C[NH+](C)CCC[N+:21](=C(c1ccccc1)c1ccccc1)[H:20]>>C[NH+](C)CCCNC(=O)/C=N/[O:10][H:20].C[NH+](C)CCC[N:21]=C(c1ccccc1)c1ccccc1 10=20;20,21=21",
"CCC(O)C[N+:21](CC(O)CC)(C(C)(C)C)[H:20].COc1cc(S(C)=O)ccc1-c1nc2ncncc2[n-:10]1>>CCC(O)C[N:21](CC(O)CC)C(C)(C)C.COc1cc(S(C)=O)ccc1-c1nc2ncncc2[n:10]1[H:20] 10=20;20,21=21",
"COc1nc2ccccc2c[n+:21]1[H:20].Cc1ccc([N:10](C)C)cc1>>COc1nc2ccccc2c[n:21]1.Cc1ccc([N+:10](C)(C)[H:20])cc1 10=20;20,21=21",
"CCCCS(=O)[O-:10].CCc1ccnc2c1ccc1c(CC)cc[n+:21]([H:20])c12>>CCCCS(=O)[O:10][H:20].CCc1ccnc2c1ccc1c(CC)cc[n:21]c12 10=20;20,21=21",
"CC(=O)Nc1ccc(S(=O)(=O)[NH-:10])cc1.COc1ccc(-c2c[n+:21]([H:20])c(-c3ccc(OC)cc3)o2)cc1>>CC(=O)Nc1ccc(S(=O)(=O)[NH:10][H:20])cc1.COc1ccc(-c2c[n:21]c(-c3ccc(OC)cc3)o2)cc1 10=20;20,21=21",
"C1CCC(P(C2CCCCC2)(C2CCCCC2)=[O+:21][H:20])CC1.S=C(c1cccc(Br)c1)[N-:10]c1ccc(Br)cc1>>C1CCC(P(C2CCCCC2)(C2CCCCC2)=[O:21])CC1.S=C(c1cccc(Br)c1)[N:10](c1ccc(Br)cc1)[H:20] 10=20;20,21=21",
"COc1nccc(C)[n+:21]1[H:20].OC[C@@H]1O[C@H](n2nnc3c([NH2:10])cccc32)C[C@H]1O>>COc1nccc(C)[n:21]1.OC[C@@H]1O[C@H](n2nnc3c([NH2+:10][H:20])cccc32)C[C@H]1O 10=20;20,21=21",
"COCCCC[NH:10]c1ccccc1.O=C(N[O:21][H:20])C1CCCCC1>>COCCCC[NH+:10](c1ccccc1)[H:20].O=C(N[O-:21])C1CCCCC1 10=20;20,21=21",
"CCCCNc1nc[n:10]c2c1cnn2C.C[n+]1c([S-])cc[n+:21]([H:20])c1[S-]>>CCCCNc1nc[n+:10]([H:20])c2c1cnn2C.C[n+]1c([S-])cc[n:21]c1[S-] 10=20;20,21=21",
"CC1=C(O)/C(=[O+:21]/[H:20])N(c2ccccc2)N1C.Cc1nc2c[n:10]cnc2nc1C>>CC1=C(O)C(=[O:21])N(c2ccccc2)N1C.Cc1nc2c[n+:10]([H:20])cnc2nc1C 10=20;20,21=21",
"Cc1cc(C)[n:10]c([S-])[n+]1C.NC(C([NH3+])c1ccccc1)=[N+:21](O)[H:20]>>Cc1cc(C)[n+:10]([H:20])c([S-])[n+]1C.NC(C([NH3+])c1ccccc1)=[N:21]O 10=20;20,21=21",
"CSc1ccc([NH2+:21][H:20])cc1Cl.[NH3+]c1ccccc1[NH2:10]>>CSc1ccc([NH2:21])cc1Cl.[NH3+]c1ccccc1[NH2+:10][H:20] 10=20;20,21=21",
"CCn1c[n+:21]([H:20])c2ccccc21.Clc1ccc([O-:10])c(C[NH+]2CCCC2)c1>>CCn1c[n:21]c2ccccc21.Clc1ccc([O:10][H:20])c(C[NH+]2CCCC2)c1 10=20;20,21=21",
"Brc1ccc[n+:21]([H:20])c1.Nc1ccc2c[n:10][nH]c2c1>>Brc1ccc[n:21]c1.Nc1ccc2c[n+:10]([H:20])[nH]c2c1 10=20;20,21=21",
"Cc1cc(NCCC[NH+](C)C)c2c([N+](=O)[O-])cccc2[n+:21]1[H:20].OCc1cccc(CO)c1[O-:10]>>Cc1cc(NCCC[NH+](C)C)c2c([N+](=O)[O-])cccc2[n:21]1.OCc1cccc(CO)c1[O:10][H:20] 10=20;20,21=21",
"CC[N:10](CC)Cc1ccccc1O.Cn1c[n+:21]([H:20])cc1CC([NH3+])C(=O)[O-]>>CC[N+:10](CC)(Cc1ccccc1O)[H:20].Cn1c[n:21]cc1CC([NH3+])C(=O)[O-] 10=20;20,21=21",
"CCSC(C)[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(C#N)C=C2)[H:20])=C1>>CCSC(C)[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(C#N)C=C2)=C1 10=20;20,21=21",
"Cc1ccc(SC2CC(=O)[N:21]2[H:20])cc1.O=C1C(=NO)CC/C1=N\[O-:10]>>Cc1ccc(SC2CC(=O)[N-:21]2)cc1.O=C1C(=NO)CC/C1=N\[O:10][H:20] 10=20;20,21=21",
"O=P(C1CCCCC1)(C1CCCCC1)[O:21][H:20].c1ccc2c([NH2:10])cccc2c1>>O=P(C1CCCCC1)(C1CCCCC1)[O-:21].c1ccc2c([NH2+:10][H:20])cccc2c1 10=20;20,21=21",
"C=C1CC1CC(C(=O)[O-])[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>C=C1CC1CC(C(=O)[O-])[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CCCCCCCCCC[N:10](CC(O)CC)CC(O)CC.O=C(CC(c1ccccc1)c1ccccc1Cl)[O:21][H:20]>>CCCCCCCCCC[N+:10](CC(O)CC)(CC(O)CC)[H:20].O=C(CC(c1ccccc1)c1ccccc1Cl)[O-:21] 10=20;20,21=21",
"CC[NH+](CC)CCCC(C)Nc1cc[n:10]c2cc(Br)ccc12.Cc1cc2ccccc2c(C(=O)[O:21][H:20])c1C>>CC[NH+](CC)CCCC(C)Nc1cc[n+:10]([H:20])c2cc(Br)ccc12.Cc1cc2ccccc2c(C(=O)[O-:21])c1C 10=20;20,21=21",
"Cc1ccc(S(=O)(=O)N2CC[NH:10]CC2)cc1.Nc1cc[nH+]c2c1[n+:21]([H:20])cn2CCOCP(=O)(O)O>>Cc1ccc(S(=O)(=O)N2CC[NH+:10]([H:20])CC2)cc1.Nc1cc[nH+]c2c1[n:21]cn2CCOCP(=O)(O)O 10=20;20,21=21",
"COc1ccc2c(c1OC(C)=O)[C@]13CC[N:10](C)[C@H](C2)[C@@H]1CC[C@H](OC)C3.[NH-]S(=O)(=O)c1nnc([N:21](c2ccccc2)[H:20])s1>>COc1ccc2c(c1OC(C)=O)[C@]13CC[N+:10](C)([H:20])[C@H](C2)[C@@H]1CC[C@H](OC)C3.[NH-]S(=O)(=O)c1nnc([N-:21]c2ccccc2)s1 10=20;20,21=21",
"CCCCCn1cc[n+:21]([H:20])c1.[NH3+]CCCCCCCCCCC(=O)[O-:10]>>CCCCCn1cc[n:21]c1.[NH3+]CCCCCCCCCCC(=O)[O:10][H:20] 10=20;20,21=21",
